US07838524B2
Preparation of {5-tert-butyl-2-[3-(2-methoxyethylsulfamoyl)-phenyl]-2H-pyrazol-3-yl}-carbamic acid phenyl ester
To a mixture of 3-(5-amino-3-tert-butyl-pyrazol-1-yl)-N-(2-methoxyethyl)benzene sulfonamide (940 mg, 2.67 mmol) and solid sodium carbonate (493 mg, 5.87 mmol, 2.2 eq) in anhydrous THF was slowly added phenylchloroformate (0.40 mL, 3.20 mmol, 1.2 eq), and the reaction mixture was stirred at room temperature under nitrogen for 6 h. The reaction mixture was poured into ethyl acetate, and then the organic phase was separated and washed with water and brine, dried over Na2SO4, filtered, and concentrated at reduced pressure. Purification by MPLC (35% EtOAc/hexane) afforded the title compound (887 mg, 70%) as a white solid. 1H-NMR (CD3OD) δ 10.17 (broad s, 1H), 7.94 (t, J=1.5 Hz, 1H), 7.89 (t, J=6.0 Hz, 1H), 7.81 to 7.69 (m, 3H), 7.34 to 7.29 (m, 2H), 7.19 (t, J=7.2 Hz, 1H), 7.09 (broad s, 2H), 6.38 (s, 1H), 3.25 (t, J=6.0 Hz, 2H), 3.09 (s, 3H), 2.90 (broad s, 2H), 1.26 (s, 9H).

reactant | 3-(5-amino-3-tert-butyl-pyrazol-1-yl)-N-(2-methoxyethyl)benzene sulfonamide | 2.67 mmol, 940 mg | NC1=CC(=NN1C=1C=C(C=CC1)S(=O)(=O)NCCOC)C(C)(C)C | C16H24N4O3S
reactant | sodium carbonate | 5.87 mmol, 493 mg, 2.2 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylchloroformate | 3.20 mmol, 0.40 mL, 1.2 eq | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | {5-tert-butyl-2-[3-(2-methoxyethylsulfamoyl)-phenyl]-2H-pyrazol-3-yl}-carbamic acid phenyl ester | 887 mg, 70% | C1(=CC=CC=C1)OC(NC=1N(N=C(C1)C(C)(C)C)C1=CC(=CC=C1)S(NCCOC)(=O)=O)=O | C23H28N4O5S
